US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)ethylamine hydrochloride
By using 145 ml (1.79 mol) of 70% ethylamine aqueous solution instead of n-propylamine, 255 ml of tetahydrofuran, 27.3 ml (0.296 mol) of 1,3-dichloropropene (E/Z=9/1), 2.85 g (15 mmol) of copper (I) iodide, 1.07 g (6.0 mmol) of palladium chloride, 3.15 g (12 mmol) of triphenylphosphine and 45.0 ml (0.365 mol) of tert-butylacetylene, the treatment was conducted in the same manner as in Example 1 to obtain 44.4 g (yield: 74%) of the above identified compound as slightly yellowish brown crystalline powder.

reactant | ethylamine | 1.79 mol, 145 ml | C(C)N | C2H7N
reactant | 1,3-dichloropropene | 0.296 mol, 27.3 ml | ClC=CCCl | C3H4Cl2
reactant | triphenylphosphine | 12 mmol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butylacetylene | 0.365 mol, 45.0 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 15 mmol, 2.85 g | [Cu]I
catalyst | palladium chloride | 6.0 mmol, 1.07 g | [Pd](Cl)Cl
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)ethylamine hydrochloride | yield: 74% | Cl.CC(C#C/C=C/CNCC)(C)C | InChI=1S/C11H19N.ClH/c1-5-12-10-8-6-7-9-11(2,3)4;/h6,8,12H,5,10H2,1-4H3;1H/b8-6+;
